US04695571
B1. 5-ethyl-3-hydroxy-6-oxo-2,3,6,7-tetrahydrofuro[2,3-f]indole
To a slurry of 30 g. (0.138 mole) of 5-ethyl-3,6-dioxo-2,3,6,7-tetrahydro-furo[2,3-f]indole (Preparation A) in 1 l. of methanol cooled to 0° C. was added 5.24 g. (0.138 mole) of sodium borohydride. After 30 minutes an additional 2.6 g. (68.4 moles) of hydride was added and the reaction mixture allowed to stir for 1.5 hours. The reaction mixture was quenched by the addition of 50 ml. of a saturated brine solution and the resulting solution concentrated in vacuo. The residue was partitioned between 1 l. of a saturated brine solution and 1 l. of dichloromethane. The organic layer was separated and held, and the aqueous layer was extracted (4×300 ml.) with fresh dichloromethane. The organic extracts were combined, dried over magnesium sulfate and concentrated to give a quantitative yield of product. A small sample was recrystallized from diethyl ether, m.p. 144°-145° C.

reactant | 5-ethyl-3,6-dioxo-2,3,6,7-tetrahydro-furo[2,3-f]indole | 0.138 mole | C(C)N1C(CC=2C=C3C(=CC12)C(CO3)=O)=O | C12H11NO3
reactant | sodium borohydride | 0.138 mole | [BH4-].[Na+]
reactant | hydride | 68.4 moles | [H-]
solvent | methanol | CO | CH4O
product | 5-ethyl-3-hydroxy-6-oxo-2,3,6,7-tetrahydrofuro[2,3-f]indole | quantitative yield | C(C)N1C(CC=2C=C3C(=CC12)C(CO3)O)=O | C12H13NO3
